US04769482
5-(4-Acetyl-3-hydroxy-2-propylphenoxy)pentane nitrile
A solution of 44.4 g. of 2,4-dihydroxy-3-propylacetophenone, 42.2 g. of 6-chlorocapronitrile, 33.2 g. of potassium carbonate and 4.0 g. of potassium iodide in one liter of methyl ethyl ketone was allowed to reflux for three days. The reaction mixture was filtered and the filtrate was evaporated in vacuo. Chromatography of the residue over silica gel (0-30% ethyl acetate gradient in hexane) gave 53.6 g. of the title product as an oil.

reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | 6-chlorocapronitrile | ClCCCCCC#N | C6H10ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | methyl ethyl ketone | one liter | C(C)C(=O)C | C4H8O
product | 5-(4-Acetyl-3-hydroxy-2-propylphenoxy)pentane nitrile | C(C)(=O)C1=C(C(=C(OCCCCC#N)C=C1)CCC)O | C16H21NO3
